US04772608
23.7 g (0.1 mole) of 1-pyrid-2-yl-4-phenyl-pyrazolin-5-one are dissolved in 200 ml of dioxane. After addition of 10.1 g (0.1 mole) of triethylamine, 11.5 g (0.1 mole) of methanesulphonyl chloride are added dropwise at room temperature, while cooling gently. The mixture is subsequently stirred at room temperature for a further 2 hours and at 70° C. for 5 hours, cooled and stirred into 1 l of water. The crystals are filtered off with suction, dried in air and recrystallized from ethanol. 22.5 g (71% of theory) of 1-pyrid-2-yl-2-methylsulphonyl-4-phenyl-pyrazolin-5-one of melting point 112°-114° C. are obtained.

reactant | 1-pyrid-2-yl-4-phenyl-pyrazolin-5-one | 0.1 mole, 23.7 g | N1=C(C=CC=C1)N1NC=C(C1=O)C1=CC=CC=C1 | C14H11N3O
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.1 mole, 11.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 1 l | O | H2O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 1-pyrid-2-yl-2-methylsulphonyl-4-phenyl-pyrazolin-5-one | 22.5 g, 71% | N1=C(C=CC=C1)N1N(C=C(C1=O)C1=CC=CC=C1)S(=O)(=O)C | C15H13N3O3S
